US04668697
5-Acetoxy-2-sulfamoylbenzo[b]thiophene
A solution of 5-hydroxy-2-sulfamoylbenzo[b]thiophene (4.00 g, 0.017 m) in acetone (70 ml) was cooled to -5° C., triethylamine (1.92 g, 0.019 m) was added, followed by the dropwise addition of a solution of acetyl chloride (1.49 g, 0.019 m) in acetone (10 ml) over 15 minutes, maintaining the temperature at -5° to -3° C. After stirring at -5° C. for 21/4 hours, the mixture was filtered and the solid was washed with acetone. The combined filtrate and washings were concentrated under reduced pressure, the residue was dissolved in ethyl acetate (7.5 ml) washed with water (2×20 ml), dried and evaporated under reduced pressure. The residue was crystallized from 1,2-dichloroethane to yield 4.01 g (87%) of product melting at 129°-132° C. An analytical sample melted at 131.5°-133° C. after recrystallization from 1,2-dichloroethane.

reactant | 5-hydroxy-2-sulfamoylbenzo[b]thiophene | 4.00 g | OC1=CC2=C(SC(=C2)S(N)(=O)=O)C=C1 | C8H7NO3S2
reactant | triethylamine | 1.92 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 1.49 g | C(C)(=O)Cl | C2H3ClO
solvent | acetone | 70 ml | CC(=O)C | C3H6O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 5-Acetoxy-2-sulfamoylbenzo[b]thiophene | 4.01 g, 87% | C(C)(=O)OC1=CC2=C(SC(=C2)S(N)(=O)=O)C=C1 | C10H9NO4S2
